US08703768B2
Step 1: N-(2-Hydroxy-2-methylpropyl)-1-methyl-4-nitro-1H-pyrazole-3-carboxamide
To a suspension of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid (0.9 g, 5.26 mmol) and 1-amino-2-methylpropan-2-ol (469 mg, 5.26 mmol) in THF (20 mL) cooled to 0-5° C. were added N,N-diisopropylamine (3.67 mL, 21.0 mmol) and 1-propanephosphonic acid cyclic anhydride (8.37 mL, 13.1 mmol, 50% solution in ethyl acetate). The mixture was stirred at 70° C. for 16 hours, cooled to ambient temperature, poured into ethyl acetate (50 mL) and extracted with HCl (1 M, 20 mL). The organic phase was washed with water and brine. The aqueous layers were back-extracted separately with ethyl acetate and dichloromethane. The combined organic layers were dried and concentrated in vacuo to give 1.4 g crude product. The crude material was purified by silica gel chromatography using a methanol/ethyl acetate gradient to give the title compound as colorless foam (391 mg, 31% yield).

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid | 5.26 mmol, 0.9 g | CN1N=C(C(=C1)[N+](=O)[O-])C(=O)O | C5H5N3O4
reactant | 1-amino-2-methylpropan-2-ol | 5.26 mmol, 469 mg | NCC(C)(O)C | C4H11NO
reactant | N,N-diisopropylamine | 21.0 mmol, 3.67 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 13.1 mmol, 8.37 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-Hydroxy-2-methylpropyl)-1-methyl-4-nitro-1H-pyrazole-3-carboxamide | 391 mg, 31% yield | OC(CNC(=O)C1=NN(C=C1[N+](=O)[O-])C)(C)C | C9H14N4O4
